US08404676B2
Intermediate 38: 6-(2-methylpiperidin-1-yl)nicotinic acid
A mixture of 6-chloronicotinonitrile (Maybridge SPB04745; 1.5 g; 10.8 mmol; 1 eq.) and 2-methylpiperidine (25.6 ml; 216.5 mmol; 20 eq.) was stirred at 90° C. for 24 hours. The mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulphate and concentrated in vacuo. To the residue (1.5 g; 7.45 mmol; 1 eq.) in water (90 mL) was added potassium hydroxide (2.09 g; 37.3 mmol; 5 eq.) and the reaction mixture was refluxed for 16 hours. After cooling to room temperature, the precipitate was filtered off and the filtrate acidified to pH 6 with HCl 1M. The precipitate was filtered off and dried to afford the title compound as a beige solid.

reactant | 6-chloronicotinonitrile | 10.8 mmol, 1.5 g, 1 eq. | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | 2-methylpiperidine | 216.5 mmol, 25.6 ml, 20 eq. | CC1NCCCC1 | C6H13N
reactant | potassium hydroxide | 37.3 mmol, 2.09 g, 5 eq. | [OH-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | 90 mL | O | H2O
product | 6-(2-methylpiperidin-1-yl)nicotinic acid | CC1N(CCCC1)C1=NC=C(C(=O)O)C=C1 | C12H16N2O2
